US05840732
ii) Synthesis of 5-hexylidene-3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione hydrochloride
To a solution of 1.77 g (4.39 mmol) of 5-hexylidene-3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione in 30 ml of methanol, 0.42 ml of concentrated hydrochloric acid was added. After the solvent was distilled off, the residue was washed with diethyl ether to yield 1.89 g (97.9%, yellow-orange oily substance) of the desired product.

reactant | 5-hexylidene-3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione | 4.39 mmol, 1.77 g | C(CCCCC)=C1C(N(C(S1)=O)CCCCSC1=CC=CC=2N1C=CN2)=O | C20H25N3O2S2
reactant | hydrochloric acid | 0.42 ml | Cl | ClH
solvent | methanol | 30 ml | CO | CH4O
product | 5-hexylidene-3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione hydrochloride | Cl.C(CCCCC)=C1C(N(C(S1)=O)CCCCSC1=CC=CC=2N1C=CN2)=O | InChI=1S/C20H25N3O2S2.ClH/c1-2-3-4-5-9-16-19(24)23(20(25)27-16)13-6-7-15-26-18-11-8-10-17-21-12-14-22(17)18;/h8-12,14H,2-7,13,15H2,1H3;1H
